US07253165B2
Synthesis of (R)-1-[4-(3-chloro-phenoxy)-piperidin-1-yl]-3-(3-isoxazolo[5,4-b]pyridin-3-yl-phenoxy)-propan-2-ol (Scheme III, Compound 1)
Dilute a 0.370 M solution (in dimethylformamide) of (R)-3-(3-oxiranylmethoxy-phenyl)-isoxazolo[5,4-b]pyridine (140 mg, 0.522 mmol) with ethanol (3.0 mL) and add solution of 4-(3-chlorophenoxy)-piperidine (121.5 mg, 0.574 mmol, 1.1 equivalents) (Table No.1, SM 7) dissolved in ethanol (0.200 M solution). Under a vented argon atmosphere, reflux the reaction mixture overnight. Concentrate the reaction mixture and purify with a Waters Sep-Pak 5 g silica gel cartridge and elute with a graded solvent mixture from 1% methanol in dichloromethane to 5% methanol in dichloromethane to give the title compound (124.6 mg, 50% Yield). Purity by LC/MS=100%, [M+H]+=480

reactant | (R)-3-(3-oxiranylmethoxy-phenyl)-isoxazolo[5,4-b]pyridine | 0.522 mmol, 140 mg | O1[C@H](C1)COC=1C=C(C=CC1)C1=NOC2=NC=CC=C21 | C15H12N2O3
reactant | 4-(3-chlorophenoxy)-piperidine | 0.574 mmol, 121.5 mg, 1.1 equivalents | ClC=1C=C(OC2CCNCC2)C=CC1 | C11H14ClNO
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
solvent | ethanol | 0.200 M | C(C)O | C2H6O
product | (R)-1-[4-(3-chloro-phenoxy)-piperidin-1-yl]-3-(3-isoxazolo[5,4-b]pyridin-3-yl-phenoxy)-propan-2-ol | 124.6 mg, 50% Yield | ClC=1C=C(OC2CCN(CC2)C[C@H](COC2=CC(=CC=C2)C2=NOC3=NC=CC=C32)O)C=CC1 | C26H26ClN3O4
